US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1H-indazole-3-carboxamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.484 mmol), 1H-indazole-3-carboxylic acid (94 mg, 0.581 mmol), oxalyl chloride (84 μL, 0.969 mmol), N,N-dimethylformamide (1 drop), tetrahydrofuran (5 mL) and N-methylpyrrolidone (5 mL) as starting materials and in the same manner as in Example 412, the title compound (149 mg, 68%) was obtained as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.484 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 1H-indazole-3-carboxylic acid | 0.581 mmol, 94 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | oxalyl chloride | 0.969 mmol, 84 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1H-indazole-3-carboxamide | 149 mg, 68% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NNC3=CC=CC=C23)C1 | C24H19N7O3
